US06211242B1
To a solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-hydroxypropoxy)phenyl]benzamide (520 mg) in dichloromethane (20 ml) was added triphenylphosphine (827 mg) and carbon tetrabromide (1.39 g) at ambient temperature. The mixture was stirred for 2 hours and diluted with ethyl acetate and washed successively with saturated sodium hydrogen carbonate and brine, and dried over magnesium sulfate. The solid was removed and the solvent was removed by evaporation to give crude product. The crude material was subjected to a silica gel column chromatography (SiO2; 50 g, 0.5% methanol in chloroform) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-bromopropoxy)phenyl]benzamide (540 mg) as white amorphous.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-hydroxypropoxy)phenyl]benzamide | 520 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCO)C)C=C1 | C31H30N2O4
reactant | triphenylphosphine | 827 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 1.39 g | C(Br)(Br)(Br)Br | CBr4
reactant | methanol | 50 g | CO | CH4O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-bromopropoxy)phenyl]benzamide | 540 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCBr)C)C=C1 | C31H29BrN2O3
